US04405798
B. PREPARATION OF 4-BROMOMETHYL-2,6,7-TRIOXABICYCLO[2.2.2]OCTANE
Monobromopentaerythritol from A (10 g, 0.05 mole) and 9 ml triethylorthoformate (0.05 mole) are mixed in a sublimation apparatus equipped with a side arm. The mixture is heated to about 100° C. with magnetic stirring, and 1,5 equivalents of ethanol are allowed to distill out. Then about 100 ml dioctyl phthalate and a trace of anhydrous p-toluenesulfonic acid are added. Under vacuum the mixture is heated to about 140°-150° C. Periodically the collected crystals are removed from the cold finger. After about 3 hours no more compound sublimes. The yield of 4-bromoethyl-2,6,7-trioxabicyclo[2.2.2]octane is 6.5 g (60%).

reactant | Monobromopentaerythritol | BrC(O)C(CO)(CO)CO | C5H11BrO4
reactant | triethylorthoformate | 0.05 mole, 9 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | ethanol | 1,5 equivalents | C(C)O | C2H6O
product | 4-BROMOMETHYL-2,6,7-TRIOXABICYCLO[2.2.2]OCTANE | BrCC12COC(OC1)OC2 | C6H9BrO3
